US07709471B2
1-cyclopropylpiperidin-4-one
1-Ethyl-1-methyl-4-oxopiperidinium iodide (Journal of the Chemical Society (1949), 708-15; 15 g, 55.74 mmol) was added to cyclopropylamine (Aldrich; 19.3 mL, 278.69 mmol) in toluene (150 mL). Sodium hydrogen carbonate (469 mg, 5.57 mmol) in water (21 mL) was added and the mixture heated at 78° C. over night. The mixture was cooled and the layers separated. The aqueous layer was extracted (×2) with ethyl acetate and the combined organics washed with brine, dried (MgSO4) and concentrated. Column chromatography of the residue (2% MeOH/DCM) gave the title compound (4.1 g, 53%) as a pale brown liquid.

reactant | 1-Ethyl-1-methyl-4-oxopiperidinium iodide | [I-].C(C)[N+]1(CCC(CC1)=O)C
reactant | cyclopropylamine | 278.69 mmol, 19.3 mL | C1(CC1)N | C3H7N
reactant | Sodium hydrogen carbonate | 5.57 mmol, 469 mg | C(O)([O-])=O.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 21 mL | O | H2O
product | 1-cyclopropylpiperidin-4-one | 4.1 g, 53% | C1(CC1)N1CCC(CC1)=O | C8H13NO
